Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Wellbutrin
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
NONE 

 
History of Present Illness:
___ male with HCV, EtOH cirrhosis c/b hepatoma s/p 
cyberknife, DM2 who presents from jail with recently diagnosed 
pneumonia.  
.  
The patient was seen at ___ with pleuritic chest 
pain on ___. At that time he was diagnosed with a pneumonia, 
had a PICC placed, and was started on antibiotics (only zosyn 
per report). He was discharged to rehab for 3 days, then to 
jail, from where he was transferred to ___ because they do not 
administer IV antibiotcs via PICC line.  
.  
In the ED, initial vitals were: T 97.2, HR 64, BP 158/89, RR 16, 
SvO2 100% RA. CXR in ED showed bilateral opacities with nodular 
appearance. The patient was admitted to medicine.  
.  
Currently, he endorses dyspnea, with mild pleuritic chest pain 
and fatigue. He denies fevers, chills, cough, nausea, vomiting, 
diarrhea, constipation, abdominal pain, leg pain or other 
symptoms.  
 
Past Medical History:
- HCV/EtOH cirrhosis, c/b HCC s/p cyberknife x5  
- DM2  
- HTN  
- Depression  
- h/o UTI  
- s/p cataract surgery  
- s/p trach  

 
Social History:
___
Family History:
Father with prostate ca. Family hx of etoh abuse. 
 
Physical Exam:
Admission Exam:  
Vitals: 96.6 129/69 60 20 98% RA FSBS 241  
General: Chronically ill-appearing male with jaundice laying 
comfortably in bed, no apparent distress 
HEENT: Sclera mildly icteric, MMM, oropharynx clear, poor 
dentition  
Lungs: Clear to auscultation bilaterally, tubular breath sounds, 
no crackles  
CV: Regular rhythm, normal rate, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding  
Ext: WWP, no edema. 
Skin:  Large hematoma overlying left breast with marked edema of 
breast 
. 
Discharge Exam:  
VS:  97.3  105/60  75  20  97%RA
General: Chronically ill-appearing male with jaundice laying 
comfortably in bed, no apparent distress  
HEENT: Sclera mildly icteric, MMM, oropharynx clear, poor 
dentition  
Lungs: Clear to auscultation bilaterally, tubular breath sounds, 
no crackles  
CV: Regular rhythm, normal S1, S2, no murmurs, rubs, gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding  
Ext: WWP, no edema
Skin:  Large hematoma overlying left breast with marked edema of 
breast
 
Pertinent Results:
Admission Labs:  
___ 10:45PM BLOOD WBC-4.0 RBC-3.42* Hgb-12.2* Hct-35.2* 
MCV-103* MCH-35.7* MCHC-34.8 RDW-15.2 Plt ___
___ 10:45PM BLOOD Neuts-79.0* Lymphs-14.8* Monos-4.4 
Eos-1.0 Baso-0.7
___ 10:45PM BLOOD Plt ___
___ 10:45PM BLOOD Glucose-254* UreaN-12 Creat-1.1 Na-136 
K-4.1 Cl-105 HCO3-25 AnGap-10
___ 10:45PM BLOOD ALT-27 AST-41* AlkPhos-146* TotBili-8.3*
___ 10:45PM BLOOD Albumin-3.1* Calcium-9.3 Phos-3.4 Mg-1.8
___ 10:56PM BLOOD Lactate-1.8
. 
Discharge Labs:  
___ 05:02AM BLOOD WBC-2.3* RBC-2.99* Hgb-10.7* Hct-30.3* 
MCV-102* MCH-35.7* MCHC-35.2* RDW-15.1 Plt Ct-81*
___ 05:02AM BLOOD ___ PTT-29.3 ___
___ 05:02AM BLOOD Glucose-224* UreaN-10 Creat-0.8 Na-136 
K-3.7 Cl-105 HCO3-25 AnGap-10
___ 05:02AM BLOOD Calcium-8.8 Phos-2.9 Mg-1.9
. 
AFP:  
___ 11:15AM BLOOD AFP-2561*
. 
CXR ___:  
FINDINGS: Frontal and lateral views of the chest were obtained. 
There is interval placement of a right-sided PICC, terminating 
in the distal SVC/cavoatrial junction. Bibasilar opacities, new 
since ___ are seen, which could relate to atelectasis, 
aspiration, and/or infection. No pleural effusion or 
pneumothorax is seen. Cardiac and mediastinal silhouettes are 
stable. 
. 
CT chest ___:  
1. Even if the majority of multiple subcentimeter pulmonary 
nodules new since ___, are due to the bronchial 
inflammation or infection seen in the left lung, there is still 
a sufficient number of nodules in areas free of inflammation, to 
raise concern for metastasis from reported hepatocellular 
carcinoma. The lesions are too small to promise differentiation 
of malignancy from infection by PET scanning. Depending upon 
clinical circumstances, surveillance may be the most reasonable 
approach, with a repeat scan in no more than three months. 
2. Mild, non-pathologic thoracic vertebral compression 
fractures, new since ___. 
 
Brief Hospital Course:
___ male with HCV/EtOH cirrhosis c/b ___ s/p cyberknife, 
transferred from prison for recently diagnosed pneumonia with 
PICC line, found to have multiple pulmonary nodules concerning 
for metastatic spread of HCC.    
.  
# Chest pain:  Patient admitted with pleuritic chest pain 
following 4 days of zosyn for pneumonia diagnosed at an outside 
hospital.  He was noted on admission to have a large hematoma 
overlying his left chest with nodularity that likely is the 
cause of his chest pain, possibly pleuritic due to splinting.  
On admission, he did not have any fevers, cough, or leukocytosis 
to support a current pneumonia.  His EKG was unchanged from 
baseline, and his resting and ambulatory saturations remained 
stable on room air.  The patient underwent CXR that showed 
nodular bibasilar infiltrates.  He then underwent a CT scan to 
further evaluate lung parenchyma that showed multiple small 
nodules concerning for metastatic malignancy, without evidence 
of pneumonia.  Zosyn was stopped after a 5 day course (day 2 of 
admission) and PICC was pulled.  Given likely primary malignancy 
of HCC, the patient's AFP was checked, and showed increase from 
2295 to 2561 after cyberknife therapy (a sharp trend up from AFP 
275 in ___.  Oncology was consulted for workup of nodules and 
recommended repeat CT scan in 2 months, as nodules are currently 
too small to biopsy.  Patient is not yet a candidate for 
systemic chemotherapy as he recently underwent cyberknife.  The 
patient will follow up with his primary care physician on 
discharge for monitoring of his left chest hematoma and 
monitoring of his respiratory status.  He will follow up with 
his hepatologist and radiation/oncologist regarding his likely 
metastatic hepatocellular carcinoma.  A repeat CT chest was 
scheduled prior to discharge for 2 months from discharge.  
.    
# HCV/EtOH cirrhosis, complicated by Hepatocellular carcinoma: 
Chronic.  Patient is status post cyberknife for ___ with repeat 
procedure scheduled for end of ___. On admission, the 
patient had mild jaundice with chronically elevated T. bili (at 
baseline).  He was without evidence of further decompensation.  
During admission, the patient was found to have multiple 
pulmonary nodules concerning for metastatic HCC, as above.  The 
patient's hepatologist and radiaton oncologist were made aware 
of the new findings.  The patient was continued on home nadolol. 
 He will follow up with his hepatologist and radiation 
oncologist as previously scheduled.  
.
# Pancytopenia:  Patient with chronic mild pancytopenia with 
predominant thrombocytopenia likely due to cirrhosis.  It 
remained stable throughout admission.  
.
# DM2: Chronic.  The patient was continued on home glargine.  He 
was maintained on an insulin sliding scale while in house.    
.  
# HTN: Chronic.  The patient remained normotensive throughout 
admission.  He was continued on lasix and nadolol.     
.  
# Code: full code 
==============================================================
Transitional issues:  
# Patient should follow up for scheduled repeat CT chest in 2 
months to evaluate pulmonary nodules.  
 
Medications on Admission:
1. doxazosin 4 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
2. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. furosemide 20 mg Tablet Sig: 0.5 Tablet PO once a day.  
4. insulin aspart 100 unit/mL Cartridge Sig: Twelve (12) units  
Subcutaneous three times a day: inject before meals.  
5. insulin glargine 100 unit/mL Cartridge Sig: ___ (29) 
units
units Subcutaneous at bedtime.  
6. nadolol 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
8. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
11. amiloride 5 mg Tablet Sig: One (1) Tablet PO once a day.  
12. phytonadione 5 mg Tablet Sig: One (1) Tablet PO once a day.  

13. zosyn
 
Discharge Medications:
1. doxazosin 4 mg Tablet Sig: One (1) Tablet PO HS (at bedtime). 
 
2. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. furosemide 20 mg Tablet Sig: 0.5 Tablet PO once a day.  
4. insulin aspart 100 unit/mL Cartridge Sig: Twelve (12) units  
Subcutaneous three times a day: inject before meals.  
5. insulin glargine 100 unit/mL Cartridge Sig: ___ (29) 
units
units Subcutaneous at bedtime.  
6. nadolol 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
7. ascorbic acid ___ mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
8. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. thiamine HCl 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. omeprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
11. amiloride 5 mg Tablet Sig: One (1) Tablet PO once a day.  
12. phytonadione 5 mg Tablet Sig: One (1) Tablet PO once a day.  


 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: left chest hematoma, pulmonary nodules 
SECONDARY DIAGNOSIS:  HCV/EtOH cirrhosis complicated by 
hepatocellular carcinoma; mild pancytopenia   

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 
.
You were admitted to the hospital for administration of IV 
antibiotics for a pneumonia.  You completed your course of 
antibiotics.  During your admission, you were noted to have 
pulmonary nodules on a CT scan.  You will need to follow up for 
a repeat CT scan in 2 months, as below.  Please follow up with 
Dr. ___ as previously scheduled.  You complained of left sided 
chest tenderness during your admission due to a large bruise on 
your left chest.  This should continue to improve as the bruise 
heals.  
. 
Medications changed this admission:  
STOP zosyn    
 
Followup Instructions:
___